US05885990
Preparation of 2-hydroxy-6-cyano-1-naphthylacetic acid:
100 Milliliters of DMF was added to 177 g of methyl 2-hydroxy-6-bromo-1-naphthylacetate and 70.9 g of cuprous cyanide, and refluxed under heating for 3.5 hours in a nitrogen stream. With stirring under heating, 300 ml of water was added and supernatant liquid was decanted, and then this procedure was repeated. To the resulting residue was added 2.3 liters of a 4% aqueous sodium hydroxide solution, followed by stirring at 25° C. for 1 hour. The insoluble matter was filtered, and concentrated hydrochloric acid was added to the filtrate and the precipitate was collected by filtration. To this collected precipitate was added 200 ml of water, and thereto were added 501 g of ferrous sulfate.heptahydrate and 60 ml of concentrated hydrochloric acid, followed by stirring at 70° C. for 1 hour. After leaving for cooling, the resulting precipitate was collected by filtration and sufficiently washed with water. Thereafter, 3 liters of methanol was added thereto to dissolve the precipitate at 40° C. The insoluble matter was filtered off, and 3 liters of water was added to the filtrate to obtain a crude product. The product was repeatedly subjected to recrystallization with 10% hydrous methanol to obtain 42 g of the desired product.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | methyl 2-hydroxy-6-bromo-1-naphthylacetate | 177 g | OC1=C(C2=CC=C(C=C2C=C1)Br)CC(=O)OC | C13H11BrO3
solvent | water | 300 ml | O | H2O
product | 2-hydroxy-6-cyano-1-naphthylacetic acid | 42 g | OC1=C(C2=CC=C(C=C2C=C1)C#N)CC(=O)O | C13H9NO3
